US06939867B2
(R)-Toluene-4-sulfonic acid 2-(tert-butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethyl ester (I-2e):
To a cooled (50° C.), stirred solution of (R)-toluene-4-sulfonic acid 2-(6-chloro-pyridin-3-yl)-2-hydroxy-ethyl ester (4.9 g) and imidazole (2.0 g) in anhydrous dimethyformamide (14 mL) was added t-butyldimethylsilyl chloride (2.8 g). The reaction mixture was allowed to warm to room temperature and stirring was continued for 18 h. Ethyl acetate was added, followed by washing with water (2×), drying over sodium sulfate and concentration in vacuo to afford an oil. Chromatography (Flash 40M®) utilizing 10% ethyl acetate/hexanes afforded 5.6 g of the title compound (I-2e) as a colorless oil.

reactant | (R)-toluene-4-sulfonic acid 2-(6-chloro-pyridin-3-yl)-2-hydroxy-ethyl ester | 4.9 g | ClC1=CC=C(C=N1)[C@H](COS(=O)(=O)C1=CC=C(C=C1)C)O | C14H14ClNO4S
reactant | imidazole | 2.0 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 2.8 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyformamide | 14 mL | CN(C=O)C | C3H7NO
product | (R)-Toluene-4-sulfonic acid 2-(tert-butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethyl ester | 5.6 g | C(C)(C)(C)[Si](O[C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)C=1C=NC(=CC1)Cl)(C)C | C20H28ClNO4SSi
